US09029545B2
1-[3-(Dimethylamino)phenyl]-1-butanone
To a stirred solution of (3-bromophenyl)dimethylamine (7.5 g, 37.5 mmol) in THF (50 mL) at −78° C., was added n-butyllithium (2.88 g, 45.0 mmol). The resulting solution was stirred at −35° C. for 1 h and was then cooled to −78° C. and treated dropwise with a solution of N-methyl-N-(methyloxy)butanamide (4.92 g, 37.5 mmol) (Description 25) in dry THF (15 mL). The resulting mixture was stirred for 45 min at −78° C. and then worked up using water (100 mL) and ethyl acetate (200 mL). The crude material was purified by chromatography on silica gel, eluting with a gradient of 0-20% ethyl acetate in hexane, to afford the title compound (3.48 g). LCMS (B) m/z: 192 [M+1]+, Rt 2.29 min.

reactant | (3-bromophenyl)dimethylamine | 37.5 mmol, 7.5 g | BrC=1C=C(C=CC1)N(C)C | C8H10BrN
reactant | n-butyllithium | 45.0 mmol, 2.88 g | C(CCC)[Li]
reactant | N-methyl-N-(methyloxy)butanamide | 37.5 mmol, 4.92 g | CN(C(CCC)=O)OC | C6H13NO2
reactant | water | 100 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1-[3-(Dimethylamino)phenyl]-1-butanone | 3.48 g | CN(C=1C=C(C=CC1)C(CCC)=O)C | C12H17NO
